US05250546
(1RS,2SR)-2-[Ethyl-(3-piperidinopropyl)amino]-5-methyl-1-phenylhexan-1-ol dihydrochloride
To a cooled mixture of (1RS,2SR)-5-methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol (821 mg, 2.47 mmol) in ether (36 ml) and a 10% NaOH aqueous solution (15 ml) was added dropwise a solution of acetyl chloride (0.21 g, 2.7 mmol) in benzene. The organic layer was separated, washed with brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain an N-acetylated product (IRνmaxneat : 1620 cm-1) of the starting material. To a cooled solution of such compound in tetrahydrofuran (12.4 ml) was added lithium aluminum hydride (0.47 g) and the reaction mixture was refluxed for 3 hours. Ethyl acetate was added with cooling to the mixture to consume excess lithium aluminum hydride and the mixture was then poured into an aqueous saturated sodium sulfate solution. The organic layer was separated by decantation, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform/methanol =25/1) to give a free base of the title compound. To a solution of the compound in ethanol was added in excess 6N-HCl in EtOH and the mixture was concentrated under reduced pressure. The residue was crystallized by treatment with ether, followed by recrystallization from ethanol-ethyl acetate to obtain 510 mg of the title compound as white crystals (yield: 48%).

reactant | (1RS,2SR)-5-methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol | 2.47 mmol, 821 mg | CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | C21H36N2O
reactant | NaOH | 15 ml | [OH-].[Na+]
reactant | acetyl chloride | 2.7 mmol, 0.21 g | C(C)(=O)Cl | C2H3ClO
reactant | lithium aluminum hydride | 0.47 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | 36 ml | CCOCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 12.4 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1RS,2SR)-2-[Ethyl-(3-piperidinopropyl)amino]-5-methyl-1-phenylhexan-1-ol dihydrochloride | Cl.Cl.C(C)N(C(C(O)C1=CC=CC=C1)CCC(C)C)CCCN1CCCCC1 | InChI=1S/C23H40N2O.2ClH/c1-4-25(19-11-18-24-16-9-6-10-17-24)22(15-14-20(2)3)23(26)21-12-7-5-8-13-21;;/h5,7-8,12-13,20,22-23,26H,4,6,9-11,14-19H2,1-3H3;2*1H
